US07041663B2
Synthesis of 3-ethylindole Analogue No. 137
This compound was synthesized in exact analogy to the xample given for 3-methylindole, supra, using methods a and 2–8. the only difference is that the starting material used is 4′-(benzyloxy)-Butyrophenone CAS No. [26945-71-1] instead of 4′-(benzyloxy)-Propiophenone. Data for intermediates is as follows.

reactant | 3-methylindole | CC1=CNC2=CC=CC=C12 | C9H9N
reactant | 4′-(benzyloxy)-Butyrophenone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CCC)=O | C17H18O2
reactant | 4′-(benzyloxy)-Propiophenone | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(CC)=O | C16H16O2
product | 3-ethylindole | C(C)C1=CNC2=CC=CC=C12 | C10H11N
